US06239131B1
Preparation of 1-(2-toluoylmethyl)-2-oxo-3-amino-5-benzyloxycarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-(2-Toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-benzyloxycarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (12.9 g) was suspended in 4N HCl-dioxane (100 ml), the suspension was stirred for one hour at 50° C. The reaction mixture was concentrated under reduced pressure, the residue was neutralized with saturated aqueous sodium bicarbonate, extracted with methylene chloride, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure, to thereby obtain 9.78 g of the titled compound (Yield: 100%).

reactant | 1-(2-Toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-benzyloxycarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 12.9 g | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(=O)OCC2=CC=CC=C2)NC(=O)OC(C)(C)C)=O)C | C32H35N3O6
solvent | HCl dioxane | 4N, 100 ml | Cl.O1CCOCC1
product | 1-(2-toluoylmethyl)-2-oxo-3-amino-5-benzyloxycarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 9.78 g, Yield: 100% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(=O)OCC2=CC=CC=C2)N)=O)C | C27H27N3O4
